US06239142B1
N-(3-tert-Butoxycarbonyl-5-morpholinomethyl-thien-2-yl)-methylaminomethylenemalonic Acid Diethyl Ester
A mixture of N-(3-tert-butoxycarbonyl-thien-2-yl)-methylaminomethylenemalonic acid diethyl ester (19.0 g) from Preparation No. 2 and 4-methylene morpholinium chloride (Dimmock, JR, et al Eur. J. Med. Chem. 1989, 24, 379-383) (13.4 g) in dry acetonitrile (50 ml) is heated at reflux for about 4 hr. The solution is then cooled in an ice bath and saturated aqueous sodium carbonate (98 ml) is slowly added. The solution is extracted three times with ethyl acetate (300 ml total) and the combined organic layers are then washed three times with water (600 ml total). The solvents are removed in vacuo to afford 23.0 g (96%) of the title compound as a brown oil.

reactant | N-(3-tert-butoxycarbonyl-thien-2-yl)-methylaminomethylenemalonic acid diethyl ester | 19.0 g | C(C)OC(C(C(=O)OCC)=CN(C=1SC=CC1C(=O)OC(C)(C)C)C)=O | C18H25NO6S
reactant | 4-methylene morpholinium chloride | 13.4 g | [Cl-].C=[N+]1CCOCC1
reactant | sodium carbonate | 98 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-(3-tert-Butoxycarbonyl-5-morpholinomethyl-thien-2-yl)-methylaminomethylenemalonic Acid Diethyl Ester | 23.0 g, 96% | C(C)OC(C(C(=O)OCC)=CN(C=1SC(=CC1C(=O)OC(C)(C)C)CN1CCOCC1)C)=O | C23H34N2O7S
